* Z:\run\media\aymerick\688229EC3111185C\SpaceTech\EXP_SCHUMANN\Simulations_LTSPICE\SpiceSchematic\simulation_ADA.asc
R2 OUT_preamp N002 1K
XU1 P001 N001 +16V -16V N002 NC_01 ADA4530-1
R1 OUT_RAUCH_1 N003 200K
C2 N003 IN_RAUCH_1 1µ
C3 OUT_RAUCH_1 IN_RAUCH_1 120n
C4 OUT_RAUCH_1 IN_RAUCH_1 22n
R3 IN_RAUCH_1 0 100k
XU2 0 N003 +5V -5V OUT_RAUCH_1 AD8642
V3 Input 0 PWL file=..\Simulation_signals\Stimuli\sine_7_20u.txt
V2 0 -16V 16
V1 +16V 0 16
R8 P001 Input 4m
R9 OUT_preamp N001 150
C1 OUT_preamp 0 100n
C5 IN_RAUCH_1 OUT_preamp 1µ
V4 0 -5V 5
V5 +5V 0 5
.tran 0 3 0 10u
* Input stage: Follower opamp
.lib ADI.lib
.lib ADI1.lib
.backanno
.end
